US05221678
A mixture of 4-methoxyphenylhydrazine hydrochloride (50.0 mmol, 8.73 g) and ethyl 2-oxocyclohexaneacetate (50.0 mmol, 9.21 g) in absolute EtOH (25 ml) was heated at 85° C. for 1 h. After cooling to room temperature the mixture was filtered and the solvent was evaporated. Column chromatography (5% EtOAc in toluene) gave crystalline ethyl 6-methoxy-1,2,3,4-tetrahydrocarbazol-1-ylacetate (7.7 g, 53%).

reactant | 4-methoxyphenylhydrazine hydrochloride | 50.0 mmol, 8.73 g | Cl.COC1=CC=C(C=C1)NN
reactant | ethyl 2-oxocyclohexaneacetate | 50.0 mmol, 9.21 g | O=C1C(CCCC1)CC(=O)OCC | C10H16O3
solvent | EtOH | 25 ml | CCO | C2H6O
product | ethyl 6-methoxy-1,2,3,4-tetrahydrocarbazol-1-ylacetate | 7.7 g, 53% | COC=1C=C2C=3CCCC(C3NC2=CC1)CC(=O)OCC | C17H21NO3
